US03965257
4' -Fluoro-4-[4-(α -hydroxy-α -phenylbenzyl)piperidino] -butyrophenone hydrochloride
A mixture of 26.73 g (0.1 mole) of α,α -diphenyl-4-piperidinemethanol, 22 g (0.11 mole) of 4-chloro-4' -fluorobutyrophenone, a trace of potassium iodide and 13.5 g (0.16 mole) of sodium bicarbonate in 500 ml of toluene was refluxed for 21/2 days. The mixture was filtered, and the filtrate was cooled. The resulting solid was converted by generally known methods to the hydrochloride salt which was recrystallized from methanol and butanone to give the desired product, M.P. 224.5°-225.5° C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.1 mole, 26.73 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4-chloro-4' -fluorobutyrophenone | 0.11 mole, 22 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium iodide | [I-].[K+]
reactant | sodium bicarbonate | 0.16 mole, 13.5 g | C([O-])(O)=O.[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4' -Fluoro-4-[4-(α -hydroxy-α -phenylbenzyl)piperidino] -butyrophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C28H30FNO2.ClH/c29-26-15-13-22(14-16-26)27(31)12-7-19-30-20-17-25(18-21-30)28(32,23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16,25,32H,7,12,17-21H2;1H
